US05149717
a) (2S,3R)-2,3-epoxy-3-(3-methoxycarbonylphenyl)-propanal
The title compound is prepared analogously to Example 5a) from (2R,3R)-2,3-epoxy-3-(3-methoxycarbonylphenyl)-propanol; light-yellow oil; IR (methylene chloride): 2950, 2820, 1725, 1610, 1590, 1430, 1290, 1255 cm-1 ; Rf =0.33 (hexane/ethyl acetate 3:2).

reactant | (2R,3R)-2,3-epoxy-3-(3-methoxycarbonylphenyl)-propanol | O1[C@H](CO)[C@H]1C1=CC(=CC=C1)C(=O)OC | C11H12O4
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | (2S,3R)-2,3-epoxy-3-(3-methoxycarbonylphenyl)-propanal | O1[C@H](C=O)[C@H]1C1=CC(=CC=C1)C(=O)OC | C11H10O4
